US09328110B2
By the general method described in Step 6 of Example 1, 4-(1H-imidazo[4,5-c]quinolin-1-yl)-1-phenylbutan-1-ol) (7.2 g, 22.7 mmol) was oxidized with DMSO (2.70 g, 34.0 mmol), oxalyl chloride (3.20 g, 25.0 mmol), and triethylamine (6.90 g, 68.1 mmol) to provide 4-(1H-imidazo[4,5-c]quinolin-1-yl)-1-phenylbutan-1-one (4.08 g) as a light yellow solid after chromatography on silica gel (elution with 10% methanol in dichloromethane).

reactant | 4-(1H-imidazo[4,5-c]quinolin-1-yl)-1-phenylbutan-1-ol | N1(C=NC=2C=NC=3C=CC=CC3C21)CCCC(O)C2=CC=CC=C2 | C20H19N3O
reactant | DMSO | 34.0 mmol, 2.70 g | CS(=O)C | C2H6OS
reactant | oxalyl chloride | 25.0 mmol, 3.20 g | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | triethylamine | 68.1 mmol, 6.90 g | C(C)N(CC)CC | C6H15N
product | 4-(1H-imidazo[4,5-c]quinolin-1-yl)-1-phenylbutan-1-one | 4.08 g | N1(C=NC=2C=NC=3C=CC=CC3C21)CCCC(=O)C2=CC=CC=C2 | C20H17N3O
